US09145392B2
5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine (“43”)
The title compound was prepared in an analogous manner as 5-bromo-6-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine using 4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidine instead of 4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1-methyl-1h-imidazol-2-yl]-piperidine. LC-MS: (M+1=485, obsd.=485).

reactant | 5-bromo-6-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F)N | C19H18BrF3N6
reactant | 4-{4-[4-fluoro-3-(trifluoromethyl)phenyl]-1H-imidazol-2-yl}piperidine | FC1=C(C=C(C=C1)C=1N=C(NC1)C1CCNCC1)C(F)(F)F | C15H15F4N3
product | 5-Bromo-6-{4-[4-(4-fluoro-3-trifluoromethyl-phenyl)-1H-imidazol-2-yl]-piperidin-1-yl}-pyrimidin-4-ylamine | BrC=1C(=NC=NC1N1CCC(CC1)C=1NC=C(N1)C1=CC(=C(C=C1)F)C(F)(F)F)N | C19H17BrF4N6
